US05962450
A solution of 1.3 g (0.0032mol) of (S)-8-chloro-1-(4-chloromethyl-thiazol-2-yl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one in 15 ml of tetrahydrofuran was treated with 4 ml (0.048 mol) of pyrrolidine and stirred at 50° for 96 hrs. All volatiles were removed in a water-jet vacuum and the residue was taken up with ethyl acetate and water. The organic phase was dried over magnesium sulphate, concentrated and the residue remaining was chromatographed over silica gel with methylene chloride/methanol 95:5 as the eluent. After recrystallization from ethyl acetate there was obtained 0.62 g (44%) of (S)-8-chloro-1-(4-pyrrolidin-1-ylmethyl-thiazol-2-yl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one in the form of white crystals; m.p. 213-214° and [α]D20 =-71.2° (MeOH, c=1%).

reactant | (S)-8-chloro-1-(4-chloromethyl-thiazol-2-yl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | 0.0032mol, 1.3 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C=3SC=C(N3)CCl)CCC1)=O | C18H14Cl2N4OS
reactant | pyrrolidine | 0.048 mol, 4 ml | N1CCCC1 | C4H9N
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | (S)-8-chloro-1-(4-pyrrolidin-1-ylmethyl-thiazol-2-yl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | 0.62 g, 44% | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C=3SC=C(N3)CN3CCCC3)CCC1)=O | C22H22ClN5OS
